US07829580B2
(a) Ethyl(4-formyl-1H-pyrazol-1-yl)acetate
To a mixture of 1H-pyrazole-4-carbaldehyde (5.5 g) and ethyl bromoacetate (19.0 g) in dichloromethane (150 ml), was added 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU) (10 ml) at 0° C. The resulting mixture was stirred at room temperature for 30 minutes, and the reaction was stopped by addition of a saturated aqueous sodium chloride solution. The products were extracted with ethyl acetate, and the extract was dried over anhydrous sodium sulfate. The solvent was evaporated in vacuo, and the residue was purified by chromatography on silica gel using a mixture of hexane and ethyl acetate (1:3) as the eluent to afford the title compound as a colourless oil (8.09 g, yield: 78%).

reactant | 1H-pyrazole-4-carbaldehyde | 5.5 g | N1N=CC(=C1)C=O | C4H4N2O
reactant | ethyl bromoacetate | 19.0 g | BrCC(=O)OCC | C4H7BrO2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 10 ml | N12CCCCCC2=NCCC1 | C9H16N2
reactant | sodium chloride | [Cl-].[Na+]
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | Ethyl(4-formyl-1H-pyrazol-1-yl)acetate | 8.09 g, yield: 78% | C(C)OC(CN1N=CC(=C1)C=O)=O | C8H10N2O3
